US06465664B1
3-Phenethylcyclopentenone
The general procedure for the preparation of substrates using 3-methoxycyclopentenone (1.29 g, 11.5 mmol) and phenethylmagnesium chloride (23 mmol, 1M in THF) gave, afler flash chromatography (4:1 hexanes:ethyl acetate), the title compound as a colorless liquid (2.01 g, 94%). Spectroscopic data were consistent with previously reported data for this compound.4

reactant | 3-methoxycyclopentenone | 11.5 mmol, 1.29 g | COC1=CC(CC1)=O | C6H8O2
reactant | phenethylmagnesium chloride | 23 mmol, 1M | C(CC1=CC=CC=C1)[Mg]Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Phenethylcyclopentenone | 2.01 g, 94% | C(CC1=CC=CC=C1)C1=CC(CC1)=O | C13H14O
